US05728699
Preparation of 4-Chloro-4'-methylsulfonylmethyl-benzophenone (Compound No. VI-3)
4-bromomethyl-4'-chlorobenzophenone (3.1 g) and sodium methanesulfinate (1.5 g) were added to N,N-dimethylformamide (50 ml), and the mixture was stirred for 16 hours at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residual solid was washed with n-hexane to obtain the desired product (2.8 g, melting point: 164° to 166° C., yield: 90%).

reactant | 4-bromomethyl-4'-chlorobenzophenone | 3.1 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C14H10BrClO
reactant | sodium methanesulfinate | 1.5 g | CS(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-Chloro-4'-methylsulfonylmethyl-benzophenone | 2.8 g, yield: 90% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS(=O)(=O)C)C=C1 | C15H13ClO3S
